US06093732
A solution of 50 mg of ethyl 4-hydroxy-7-(methylsulfanyl)-3-quinolinecarboxylate in 200 μL of 4-chlorobenzylamine is heated at 190° C. under argon for 16 h, then cooled and diluted with CHCl3 and MeOH. The solution is washed with dil. HCl, dried (Na2SO4), and concentrated under reduced pressure to a yellow solid. Flash chromatography on silica using 2-4% MeOH in CH2Cl2 affords 62.4 mg (92%) of N-(4-chlorobenzyl)-4-hydroxy-7-(methylsulfanyl)-3-quinolinecarboxamide.

reactant | ethyl 4-hydroxy-7-(methylsulfanyl)-3-quinolinecarboxylate | 50 mg | OC1=C(C=NC2=CC(=CC=C12)SC)C(=O)OCC | C13H13NO3S
reactant | 4-chlorobenzylamine | 200 μL | ClC1=CC=C(CN)C=C1 | C7H8ClN
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | MeOH | CO | CH4O
product | N-(4-chlorobenzyl)-4-hydroxy-7-(methylsulfanyl)-3-quinolinecarboxamide | 62.4 mg, 92% | ClC1=CC=C(CNC(=O)C=2C=NC3=CC(=CC=C3C2O)SC)C=C1 | C18H15ClN2O2S
